US04548940
2-Chloro-3-methyl-5-nitropyridine (15.5 g), 1,3-diaminopropane (30 ml) and pyridine (10 ml) were stirred together and, after the initial exotherm had subsided, the mixture was heated under reflux for 1.5 hr. On cooling the mixture was treated with methanol and the bulk of crystalline bi-product filtered off. The solution was stripped, the residue taken up in water and the pH adjusted to 6.5 with hydrochloric acid. After filtering through `Hyflo` the solution was extracted with chloroform. The pH was raised to 14, (NaOH) and extracted with ether. After drying (K2CO3), the ether extracts were stripped to give a yellow solid which was triturated with ether/pentane to give 2-(3-aminopropylamino)-3-methyl-5-nitropyridine, (12.9 g; 68%) m.p. 93°-95° C.

reactant | 2-Chloro-3-methyl-5-nitropyridine | 15.5 g | ClC1=NC=C(C=C1C)[N+](=O)[O-] | C6H5ClN2O2
reactant | 1,3-diaminopropane | 30 ml | NCCCN | C3H10N2
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | methanol | CO | CH4O
product | 2-(3-aminopropylamino)-3-methyl-5-nitropyridine | NCCCNC1=NC=C(C=C1C)[N+](=O)[O-] | C9H14N4O2
